US06124314
[3-(Methanesulfonylamino-methyl)-phenoxy]-acetic acid methyl ester
A mixture of N-(3-hydroxy-benzyl)-methanesulfonamide (6.000 g, 29.82 mmol), methyl bromoacetate (4.562 g, 29.82 mmol), K2CO3 (4.121 g, 29.82 mmol), and acetone (250 mL) was stirred at room temperature for 68 h. The solids were removed by filtration and the solution was concentrated in vacuo. Purification by flash chromatography (1:1 hexanes:EtOAc) provided the title compound of Preparation 10 (5.637 g). 1H NMR (400 MHz, CDCl3) δ 7.25 (m, 1H), 6.96 (m, 1H), 6.89 (s, 1H), 6.82 (m, 1H), 4.63 (m, 3H), 4.28 (m, 2H), 3.80 (s, 3H), 2.86 (s, 3H); MS 274 (M+1).

reactant | N-(3-hydroxy-benzyl)-methanesulfonamide | 29.82 mmol, 6.000 g | OC=1C=C(CNS(=O)(=O)C)C=CC1 | C8H11NO3S
reactant | methyl bromoacetate | 29.82 mmol, 4.562 g | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 29.82 mmol, 4.121 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | [3-(Methanesulfonylamino-methyl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC(=CC=C1)CNS(=O)(=O)C)=O | C11H15NO5S
